US04070366
2,3-Dimethyl-4-isobutyl-5-carbethoxy-pyrrole
As in Example 32 but using 2,3-dimethyl-5-carbethoxy-pyrrole and isobutyraldehyde, pouring the mixture into water after 3 hrs and extracting the product from the alkaline mixture with ether. It was distilled (70°, 1 × 10-4 mm) and crystallized from pentane as colourless prisms (45%), m.p. 109°-111°. Anal. Calc. for C13H21NO2 : C, 69.92; H, 9.48; N, 6.27. Found: C, 70.23; H, 9.79; N, 6.27.

reactant | 2,3-dimethyl-5-carbethoxy-pyrrole | CC=1NC(=CC1C)C(=O)OCC | C9H13NO2
reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
solvent | water | O | H2O
product | 2,3-Dimethyl-4-isobutyl-5-carbethoxy-pyrrole | CC=1NC(=C(C1C)CC(C)C)C(=O)OCC | C13H21NO2
